US07115644B2
To a solution of N4-cyclohexylmethyl-2-(4-methyl-piperazin-1-yl)-5-nitro-N1-phenyl-benzene-1,4-diamine (0.22 g, 0.53 mmol) in THF (5.00 mL) was added 10% palladium on activated carbon (0.22 g). The reaction flask was equipped with a septum and was placed under vacuum for 3 min. This flask was placed under hydrogen atmosphere (balloon inflated with hydrogen) and the reaction mixture was stirred for 18 h. The palladium was filtered off through a plug of diatomaceous earth and washed with EtOAc. The solvent was removed via rotary evaporation. The resulting residue was flash chromatographed (5% MeOH/CH2Cl2), yielding N1-cyclohexylmethyl-5-(4-methyl-piperazin-1-yl)-N4-phenyl-benzene-1,2,4-triamine (0.10 g, 49.5% yield). M+, 392

reactant | N4-cyclohexylmethyl-2-(4-methyl-piperazin-1-yl)-5-nitro-N1-phenyl-benzene-1,4-diamine | 0.53 mmol, 0.22 g | C1(CCCCC1)CNC1=CC(=C(C=C1[N+](=O)[O-])NC1=CC=CC=C1)N1CCN(CC1)C | C24H33N5O2
reactant | hydrogen | [H][H] | H2
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
catalyst | palladium on activated carbon | 0.22 g | [Pd] | Pd
product | N1-cyclohexylmethyl-5-(4-methyl-piperazin-1-yl)-N4-phenyl-benzene-1,2,4-triamine | 0.10 g, 49.5% yield | C1(CCCCC1)CNC=1C(=CC(=C(C1)N1CCN(CC1)C)NC1=CC=CC=C1)N | C24H35N5
